US04630896
24 ml of a 1.2M solution of diisobutylaluminium hydride in toluene were added dropwise over a period of 30 minutes at 0° C. and under an inert gas atmosphere to a solution of 5.5 g of trans-4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexanecarbonitrile in 500 ml of toluene. The mixture was stirred at 0° C. for another hour and then at room temperature for 3 hours. The mixture was subsequently poured into 500 ml of 0.5N sulphuric acid and extracted three times with 200 ml of diethyl ether each time. The combined organic phases were washed first with saturated sodium hydrogen carbonate solution and then with water, dried over sodium sulphate and concentrated, thereby obtaining 5.6 g of trans-4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexanecarboxaldehyde.

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | trans-4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexanecarbonitrile | 5.5 g | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C#N | C18H31N
reactant | sulphuric acid | 0.5N, 500 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | trans-4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexanecarboxaldehyde | 5.6 g | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C=O | C18H32O
